US08058045B2
Ethyl 2,5-dimethoxy-2,5-dihydrofuran-3-carboxylate (615 mg, 3.044 mmol) was dissolved in methanol (10 mL) and treated with hydrogen (10 bar) over Raney nickel at 40° C. for 2 h. The reaction mixture was evaporated to dryness to give ethyl 2,5-dimethoxy-tetrahydrofuran-3-carboxylate (564 mg, 91%) which was used directly in the next step.

reactant | Ethyl 2,5-dimethoxy-2,5-dihydrofuran-3-carboxylate | 3.044 mmol, 615 mg | COC1OC(C=C1C(=O)OCC)OC | C9H14O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | ethyl 2,5-dimethoxy-tetrahydrofuran-3-carboxylate | 564 mg, 91% | COC1OC(CC1C(=O)OCC)OC | C9H16O5
